US04154740
Preparation of 1-methyl-1-methoxy-3-(4,5,6,7-tetrahydrobenzo[b]thien-7-yl)thiourea
In the manner described in Example 5, 4,5,6,7-tetrahydrobenzo[b]thien-7-yl isothiocyanate is allowed to react with O,N-dimethylhydroxylamine hydrochloride to afford the title compound.

reactant | 4,5,6,7-tetrahydrobenzo[b]thien-7-yl isothiocyanate | S1C2=C(C=C1)CCCC2N=C=S | C9H9NS2
reactant | O,N-dimethylhydroxylamine hydrochloride | Cl.CONC
product | 1-methyl-1-methoxy-3-(4,5,6,7-tetrahydrobenzo[b]thien-7-yl)thiourea | CN(C(=S)NC1CCCC2=C1SC=C2)OC | C11H16N2OS2
